US04851552
13-oxabicyclo[10.3.0]pentadecane, a valuable ambergris fragrance, is prepared by reacting cyclododecanone with cyanoacetic acid in the presence of a Knoevenagel catalyst to form cyclododecenylacetonitrile, the nitrile is hydrolyzed to cyclododecenylacetic acid, and the acid is cyclized to the lactone, and the lactone is reduced to the corresponding diol which is cyclized to 13-oxabicyclo[10.3.0]pentadecane.

reactant | 13-oxabicyclo[10.3.0]pentadecane | C12CCCCCCCCCCC2OCC1 | C14H26O
reactant | cyclododecanone | C1(CCCCCCCCCCC1)=O | C12H22O
reactant | cyanoacetic acid | C(#N)CC(=O)O | C3H3NO2
product | cyclododecenylacetonitrile | C1(=CCCCCCCCCCC1)CC#N | C14H23N
